US07485661B2
Step 3 Methyl 4-bromo-5-cyano-2-furoate
To a solution of 46.55 g (0.20 mol) of methyl 4-bromo-5-formyl-2-furoate in 465 mL of acetonitrile was added 15.28 g (0.22 mol) of hydroxylamine hydrochloride. To this suspension 96.6 mL (1.2 mol) of pyridine was added dropwise over a period of 35 min, at 20-25° C. After 90 min stirring neat trifluoroacetic anhydride (67.72 mL, 0.48 mol) was dropped in over 45 min at room temperature. After 2.5 hours stirring the reaction mass was poured in a mixture of HCl 1 M (0.75 L) and ethyl acetate (0.75 L); the aqueous layer was extracted again with 0.45 L of ethyl acetate. The organic extracts were washed with 0.45 L of 2 M HCl and the aqueous layer was back extracted with 0.3 L of ethyl acetate. The combined organic extracts were concentrated under reduced pressure to dryness. This crude material was dissolved in 100 mL of ethanol 95° and treated dropwise with 150 mL of water under efficient stirring at 40°-45° C. The resulting suspension was cooled to 0/+4° C. for 1 hour then filtered to afford, after drying, 44.2 g of product as light cream solid.

reactant | methyl 4-bromo-5-formyl-2-furoate | 0.20 mol, 46.55 g | BrC=1C=C(OC1C=O)C(=O)OC | C7H5BrO4
reactant | hydroxylamine hydrochloride | 0.22 mol, 15.28 g | Cl.NO
reactant | pyridine | 1.2 mol, 96.6 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.48 mol, 67.72 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetonitrile | 465 mL | C(C)#N | C2H3N
solvent | HCl | 1 M, 0.75 L | Cl | ClH
solvent | ethyl acetate | 0.75 L | C(C)(=O)OCC | C4H8O2
product | Methyl 4-bromo-5-cyano-2-furoate | BrC=1C=C(OC1C#N)C(=O)OC | C7H4BrNO3
